US08445684B2
3-[3(S)-[3-(Benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine
To a solution of 3(S)-[3-(benzyloxy)propyl]pyrrolidine (330 mg, 1.51 mmol) and 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (592 mg, 1.66 mmol, 1.1 equiv.) in 10 mL of anhydrous toluene were added successively at room temperature sodium tert-butoxide (290 mg, 3.02 mmol, 2.0 equiv.), tris(dibenzylideneacetone)dipalladium(0) (94 mg, 0.09 mmol, 0.06 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos, 105 mg, 0.18 mmol, 0.12 equiv.). The mixture was degassed and purged with nitrogen (3 cycles) and then heated to 98-100° C. After 4 h, the mixture was cooled to room temperature, diluted with EtOAc, and washed with brine. After drying over Na2SO4, the solvent was evaporated, and the residue was purified by CC (SiO2, CH2Cl2/EtOAc 8:1 to 3:1) to obtain the title product (746 mg, 68%) as a light yellow oil. LC-MS (ESI) m/z 496 (M+H+).

reactant | 3(S)-[3-(benzyloxy)propyl]pyrrolidine | 1.51 mmol, 330 mg | C(C1=CC=CC=C1)OCCC[C@@H]1CNCC1 | C14H21NO
reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 1.66 mmol, 592 mg, 1.1 equiv. | BrC=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | sodium tert-butoxide | 3.02 mmol, 290 mg, 2.0 equiv. | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.18 mmol, 105 mg, 0.12 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.09 mmol, 94 mg, 0.06 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[3(S)-[3-(Benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 746 mg, 68% | C(C1=CC=CC=C1)OCCC[C@@H]1CN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C29H41N3O4
